US08258097B2
N-Succinimidyl N-methylcarbamate (1.89 g, 11 mmol) was added to a solution of (S)-3-(4-Benzyloxy-3-hydroxy-phenyl)-2-tert-butoxycarbonylamino-propionic acid methyl ester (1.1 g, 2.74 mmol) in acetonitrile (15 ml). The mixture was refluxed 4 days. After removal of the solvent, the residue was purified by silica gel chromatography eluting with ethyl acetate/hexane (2:3). (S)-3-(4-Benzyloxy-3-methylcarbamoyloxy-phenyl)-2-tert-butoxycarbonylamino-propionic acid methyl ester was obtained as a white solid, 0.83 g. 1H NMR (400 MHz, CDCl3) 1.42 (s, 9H), 2.86 (d, J=4.9 Hz, 3H), 3.01 (m, 2H), 3.70 (s, 3H), 4.53 (m, 1H), 5.00 (m, 2H), 5.07 (s, 2H), 6.89 (m, 3H), 7.29-7.42 (m, 5H).

reactant | N-Succinimidyl N-methylcarbamate | 11 mmol, 1.89 g | CNC(=O)ON1C(=O)CCC1=O | C6H8N2O4
reactant | (S)-3-(4-Benzyloxy-3-hydroxy-phenyl)-2-tert-butoxycarbonylamino-propionic acid methyl ester | 2.74 mmol, 1.1 g | COC([C@H](CC1=CC(=C(C=C1)OCC1=CC=CC=C1)O)NC(=O)OC(C)(C)C)=O | C22H27NO6
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | (S)-3-(4-Benzyloxy-3-methylcarbamoyloxy-phenyl)-2-tert-butoxycarbonylamino-propionic acid methyl ester | COC([C@H](CC1=CC(=C(C=C1)OCC1=CC=CC=C1)OC(NC)=O)NC(=O)OC(C)(C)C)=O | C24H30N2O7
